US08609855B2
Benzyl 4,5,6-trichloropicolinate
A 22 L round bottom flask was fitted with a thermocouple, mechanical stirrer and a Dean-Stark trap which was connected to a nitrogen bubbler. The vessel was purged with nitrogen and then 4,5,6-trichloropicolinate (2547 g, 10.07 mol), pyridinium p-toluene sulfonate (PPTS; 130 g, 0.52 mol), benzyl alcohol (2249 g, 20.8 mol) and xylenes (10278 g) were added. Stirring was started, and the pot was heated to 140 to 145° C. The xylenes/water azeotrope was collected in the Dean-Stark trap over about 5 h. The total amount of distillate collected was 4750 g (415 g was water). After the water stopped distilling overhead, a reactor sample was taken and analyzed by high-performance liquid chromatography (HPLC) to ensure less than 1.5 area % of starting carboxylic acid remained. The reaction was allowed to cool to room temperature and stirred overnight. Xylenes (4000 g) were removed by vacuum distillation. The solution was cooled to 85-100° C. and then vacuum transferred to a 30 L jacketed crystallization vessel that had been fitted with a mechanical stirrer and thermocouple. The vacuum was released with nitrogen and a nitrogen bubbler was placed on the crystallization vessel. To the xylene solution was added isopropyl alcohol (IPA; 6200 g) over about 15 minutes (min). The resulting slurry was allowed to cool slowly to room temperature and then cooled further to 5° C. The solid was collected by filtration, and the cake was washed with cold (5-10° C.) IPA (3731 g). The solid was dried in air to a constant weight providing white crystals (2765 g, gas chromatography (GC) internal standard purity 96.5%, 84.3%).

reactant | 4,5,6-trichloropicolinate | 10.07 mol, 2547 g | ClC1=CC(=NC(=C1Cl)Cl)C(=O)[O-]
reactant | pyridinium p-toluene sulfonate | 0.52 mol, 130 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | benzyl alcohol | 20.8 mol, 2249 g | C(C1=CC=CC=C1)O | C7H8O
product | Benzyl 4,5,6-trichloropicolinate | ClC1=CC(=NC(=C1Cl)Cl)C(=O)OCC1=CC=CC=C1 | C13H8Cl3NO2
